### PR TITLE
[Merged by Bors] - feat: port Algebra.IndicatorFunction

### PR DESCRIPTION
**Pull request by LukasMias**
Some mathport warning to pay attention to, and some proofs required some work explicitly using `split_ifs` which was not necessary in lean3, but otherwise straightforward.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/IndicatorFunction.lean [hunk 1]
```diff
@@ -0,0 +1,919 @@
...
+section One
+
+variable [One M] [One N] {s t : Set α} {f g : α → M} {a : α}
+
+/- warning: set.indicator -> Set.indicator is a dubious translation:
+lean 3 declaration is
+  forall {α : Type.{u1}} {M : Type.{u2}} [_inst_3 : Zero.{u2} M], (Set.{u1} α) -> (α -> M) -> α -> M
+but is expected to have type
+  forall {α : Type.{u2}} {M : Type.{u1}} [_inst_3 : Zero.{u1} M], (Set.{u2} α) -> (α -> M) -> α -> M
+Case conversion may be inaccurate. Consider using '#align set.indicator Set.indicatorₓ'. -/
```
Comment (ChrisHughes24) [inline Mathlib/Algebra/IndicatorFunction.lean:54]:
```suggestion
```

File: Mathlib/Algebra/IndicatorFunction.lean [hunk 2]
```diff
@@ -0,0 +1,919 @@
...
+      ih _]
+    · intro i hi j hj hij
+      exact hI i (Finset.mem_insert_of_mem hi) j (Finset.mem_insert_of_mem hj) hij
+    simp only [not_exists, exists_prop, mem_unionᵢ, mem_inter_iff, not_and]
+    intro hx a' ha'
+    refine'
+      disjoint_left.1 (hI a (Finset.mem_insert_self _ _) a' (Finset.mem_insert_of_mem ha') _) hx
+    exact (ne_of_mem_of_not_mem ha' haI).symm
+#align set.mul_indicator_finset_bUnion Set.mulIndicator_finset_bUnion
+#align set.indicator_finset_bUnion Set.indicator_finset_bUnion
```
Comment (ChrisHughes24) [inline Mathlib/Algebra/IndicatorFunction.lean:671]:
```suggestion
@[to_additive]
theorem mulIndicator_finset_bunionᵢ {ι} (I : Finset ι) (s : ι → Set α) {f : α → M} :
    (∀ i ∈ I, ∀ j ∈ I, i ≠ j → Disjoint (s i) (s j)) →
      mulIndicator (⋃ i ∈ I, s i) f = fun a => ∏ i in I, mulIndicator (s i) f a := by
  classical
    refine' Finset.induction_on I _ _
    · intro
      funext
      simp
    intro a I haI ih hI
    funext
    rw [Finset.prod_insert haI, Finset.set_bunionᵢ_insert, mulIndicator_union_of_not_mem_inter,
      ih _]
    · intro i hi j hj hij
      exact hI i (Finset.mem_insert_of_mem hi) j (Finset.mem_insert_of_mem hj) hij
    simp only [not_exists, exists_prop, mem_unionᵢ, mem_inter_iff, not_and]
    intro hx a' ha'
    refine'
      disjoint_left.1 (hI a (Finset.mem_insert_self _ _) a' (Finset.mem_insert_of_mem ha') _) hx
    exact (ne_of_mem_of_not_mem ha' haI).symm
#align set.mul_indicator_finset_bUnion Set.mulIndicator_finset_bunionᵢ
#align set.indicator_finset_bUnion Set.indicator_finset_bunionᵢ
```

File: Mathlib/Algebra/IndicatorFunction.lean [hunk 3]
```diff
@@ -0,0 +1,919 @@
...
+
+@[to_additive]
+theorem mulIndicator_finset_bUnion_apply {ι} (I : Finset ι) (s : ι → Set α) {f : α → M}
+    (h : ∀ i ∈ I, ∀ j ∈ I, i ≠ j → Disjoint (s i) (s j)) (x : α) :
+    mulIndicator (⋃ i ∈ I, s i) f x = ∏ i in I, mulIndicator (s i) f x := by
+  rw [Set.mulIndicator_finset_bUnion I s h]
+#align set.mul_indicator_finset_bUnion_apply Set.mulIndicator_finset_bUnion_apply
+#align set.indicator_finset_bUnion_apply Set.indicator_finset_bUnion_apply
```
Comment (ChrisHughes24) [inline Mathlib/Algebra/IndicatorFunction.lean:679]:
```suggestion
@[to_additive]
theorem mulIndicator_finset_bunionᵢ_apply {ι} (I : Finset ι) (s : ι → Set α) {f : α → M}
    (h : ∀ i ∈ I, ∀ j ∈ I, i ≠ j → Disjoint (s i) (s j)) (x : α) :
    mulIndicator (⋃ i ∈ I, s i) f x = ∏ i in I, mulIndicator (s i) f x := by
  rw [Set.mulIndicator_finset_bUnion I s h]
#align set.mul_indicator_finset_bUnion_apply Set.mulIndicator_finset_bunionᵢ_apply
#align set.indicator_finset_bUnion_apply Set.indicator_finset_bunionᵢ_apply
```

File: Mathlib/Algebra/IndicatorFunction.lean [hunk 4]
```diff
@@ -0,0 +1,919 @@
...
+
+@[to_additive]
+theorem le_mulIndicator_apply {y} (hfg : a ∈ s → y ≤ g a) (hf : a ∉ s → y ≤ 1) :
+    y ≤ mulIndicator s g a :=
+  @mulIndicator_apply_le' α Mᵒᵈ ‹_› _ _ _ _ _ hfg hf
+#align set.le_mul_indicator_apply Set.le_mulIndicator_apply
+#align set.le_indicator_apply Set.le_indicator_apply
+
+/- ./././Mathport/Syntax/Translate/Basic.lean:632:2:
+warning: expanding binder collection (a «expr ∉ » s) -/
```
Comment (ChrisHughes24) [inline Mathlib/Algebra/IndicatorFunction.lean:790]:
```suggestion
```

File: Mathlib/Algebra/IndicatorFunction.lean [hunk 5]
```diff
@@ -0,0 +1,919 @@
...
+theorem mulIndicator_le_mulIndicator_of_subset (h : s ⊆ t) (hf : ∀ a, 1 ≤ f a) (a : α) :
+    mulIndicator s f a ≤ mulIndicator t f a :=
+  mulIndicator_apply_le'
+    (fun ha => le_mulIndicator_apply (fun _ => le_rfl) fun hat => (hat <| h ha).elim) fun _ =>
+    one_le_mulIndicator_apply fun _ => hf _
+#align set.mul_indicator_le_mul_indicator_of_subset Set.mulIndicator_le_mulIndicator_of_subset
+#align set.indicator_le_indicator_of_subset Set.indicator_le_indicator_of_subset
+
+/- ./././Mathport/Syntax/Translate/Basic.lean:632:2:
+  warning: expanding binder collection (x «expr ∉ » s) -/
```
Comment (ChrisHughes24) [inline Mathlib/Algebra/IndicatorFunction.lean:844]:
```suggestion
```

**Comment by ChrisHughes24** [comment]
bors merge

**Comment by ChrisHughes24** [comment]
bors merge
